US05994408
N-Acetyl-6-nitro-1-aminoindan
To an ice-cooled suspension of (rac)-N-acetyl-1-aminoindan (Ex. 17, 17.5 g, 0.1 mole) in nitromethane (165 ml), was added dropwise a nitrating mixture (H2SO4HNO3, H2O ) while the temperature was kept between 8° C. and 2° C. stirring was continued for 1.5 hours in the ice-bath and the mixture was then poured on to a mechanically stirred mixture of ice (500 g) and water (1300 ml) stirring being continued for 1 hour. The suspension was filtered, the white solid washed with water and dried (14.05 g, 63.9%). It is sufficiently pure for hydrogenation (Ex. 59).

reactant | (rac)-N-acetyl-1-aminoindan | 0.1 mole, 17.5 g | C(C)(=O)NC1CCC2=CC=CC=C12 | C11H13NO
reactant | H2O | O | H2O
reactant | water | 1300 ml | O | H2O
reactant | nitromethane | 165 ml | [N+](=O)([O-])C | CH3NO2
product | N-Acetyl-6-nitro-1-aminoindan | C(C)(=O)NC1CCC2=CC=C(C=C12)[N+](=O)[O-] | C11H12N2O3
